US06458772B1
c) 4-(N-benzyloxycarbonyl-L-valyloxy)benzoic acid
4-Methoxybenzyl 4-(N-benzyloxycarbonyl-L-valyloxy)benzoate was de-esterified by the method described in Example A-I-1, step c. The title compound (1.86 g) was obtained after silica gel column chromatography (2, 10, 20% ethanol in dichloromethane). Rf (2%MeOH/CHCl3) 0.20. The compound can be activated and esterifed directly to a drug or further modified as described below.

reactant | 4-Methoxybenzyl 4-(N-benzyloxycarbonyl-L-valyloxy)benzoate | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OC1=CC=C(C(=O)OCC2=CC=C(C=C2)OC)C=C1 | C28H29NO7
reactant | ethanol | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(N-benzyloxycarbonyl-L-valyloxy)benzoic acid | 1.86 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OC1=CC=C(C(=O)O)C=C1 | C20H21NO6
